US06140505
Preparation of pyrrolidineacetic acid hydrochloride
A solution of 19.6 g (101 mmol) of t-butyl bromoacetate in 150 mL of THF was cooled in an ice bath and treated dropwise over about 0.5 hour with a solution of 14.4 g (202 mmol) of pyrrolidine in 75 mL of THF, to produce a white precipitate. The bath was removed and the reaction slurry stirred for two hours. The solid was removed by filtration and the filtrate was concentrated under reduced pressure to yield a clear liquid over an orange-colored solid. The liquid was cooled in an ice bath, then treated with 40 mL (80 mmol) of 4N HCl in dioxane and stirred for 15 hours. The solvents were removed in vacuo, and the residue was triturated with diethyl ether, then filtered to yield 12.9 g of the desired acid as an off-white solid.

reactant | t-butyl bromoacetate | 101 mmol, 19.6 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | pyrrolidine | 202 mmol, 14.4 g | N1CCCC1 | C4H9N
reactant | HCl | 80 mmol, 4N, 40 mL | Cl | ClH
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | pyrrolidineacetic acid hydrochloride | 12.9 g | Cl.N1(CCCC1)CC(=O)O | InChI=1S/C6H11NO2.ClH/c8-6(9)5-7-3-1-2-4-7;/h1-5H2,(H,8,9);1H
